US04146715
2,6-Dichloropurine 5.5 g and 2-oxa-1,4-butanediol diacetate 513 g were placed in a flask and partially evacuated and then heated to 138° C., initially the mixture was too thick to stir but gradually gave rise to a melt which was stirred, and after 20 minutes was completely melted and the reaction mixture heated for 10 minutes more (total heat time = 30 minutes). The mixture was then cooled to room temperature and para-toluenesulphonic acid 150 mg was added, the vacuum reapplied and heating resumed with stirring. After 20 minutes heating vigorous bubbling was noted; the mixture was cooled to room temperature; chloroform was added, and the solution was extracted once with saturated aqueous sodium bicarbonate and once with water. The chloroform phase was dried over anhydrous sodium sulphate and evaporated. The residual oil was dissolved in benzene and applied to a column of 200 g. of silica gel in benzene. Benzene elution removed the acetate by-products. Ether elution gave 2,6-dichloro-9-(2-acetyloxyethoxymethyl)purine (64% yield). Recrystallization from benzene gave lustrous white flakes, m.p. 96°-99° C.

reactant | 2,6-Dichloropurine | 5.5 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 2-oxa-1,4-butanediol diacetate | 513 g | C(C)(=O)OCOCCOC(C)=O | C7H12O5
product | 2,6-dichloro-9-(2-acetyloxyethoxymethyl)purine | 64% yield | ClC1=NC(=C2N=CN(C2=N1)COCCOC(C)=O)Cl | C10H10Cl2N4O3
